US07456282B2
19.40 g (0.1 mole) of 2,4-dichloro-5-nitropyrimidine was completely dissolved in 60 ml of methanol and maintained below 15° C. To this solution, a solution of 12.22 g (0.2 mole) of ethanolamine in 20 ml of methanol was added slowly while maintaining the temperature of a reactor below 20° C. The mixture was stirred below 15° C. for 18 hours. After completion of the reaction, the reaction product was maintained below 5° C., and the resulting crystal was filtered, washed and dried, thereby giving 18.58 g (85% yield) of light yellow-colored 2-chloro-4-(2-hydroxyethylamino)-5-nitropyrimidine.

reactant | 2,4-dichloro-5-nitropyrimidine | 0.1 mole, 19.40 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | ethanolamine | 0.2 mole, 12.22 g | C(O)CN | C2H7NO
solvent | methanol | 60 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-chloro-4-(2-hydroxyethylamino)-5-nitropyrimidine | 85% yield | ClC1=NC=C(C(=N1)NCCO)[N+](=O)[O-] | C6H7ClN4O3
